US07576074B2
1,1-Dimethylethyl 4-[(hydroxyamino)(imino)methyl]piperazine-1-carboxylate (3.58 g, 14.6 mmol) was suspended in THF (50 mL) followed by the addition of diisopropylethylamine (3.0 mL, 17.5 mmol) and the mixture was cooled to 0° C. Acetoxyacetyl chloride (1.6 mL, 14.6 mmol) was added by syringe and the mixture was allowed to stir an additional 30 minutes at 0° C. The resulting homogeneous solution was allowed to warm to room temperature then concentrated in vacuo to afford a white solid residue. The material was suspended in water (50 ml) and the solid product was collected by filtration, washed with additional water then hexanes and dried in vacuo. The intermediate O-acyl derivative was then suspended in THF (50 mL) followed by addition of TBAF (1.0M in THF, 3.5 mL) and the mixture was stirred for 30 minutes at room temperature. The homogeneous solution obtained was concentrated in vacuo and the residue partitioned with ethyl ether and water. The organic layer was washed twice with additional water then with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. Filtration and concentration gave 1,1-dimethylethyl 4-{5-[(acetoxy)methyl]-1,2,4-oxadiazol-3-yl}piperazine-1-carboxylate (3.6 g, 76% yield) as a colorless crystalline solid. 1H-NMR (400 MHz, CDCl3): 5.14 (s, 2H), 3.51 (tr, 4H), 3.42 (tr, 4H), 2.18 (s, 3H), 1.48 (s, 9H).

reactant | 1,1-Dimethylethyl 4-[(hydroxyamino)(imino)methyl]piperazine-1-carboxylate | 14.6 mmol, 3.58 g | ONC(N1CCN(CC1)C(=O)OC(C)(C)C)=N | C10H20N4O3
reactant | diisopropylethylamine | 17.5 mmol, 3.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Acetoxyacetyl chloride | 14.6 mmol, 1.6 mL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 1,1-dimethylethyl 4-{5-[(acetoxy)methyl]-1,2,4-oxadiazol-3-yl}piperazine-1-carboxylate | 3.6 g, 76% yield | C(C)(=O)OCC1=NC(=NO1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22N4O5
